US07723368B2
Step f1) N-(3-(2-Amino-4-(4-(difluoromethoxy)phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl)phenyl)acetamide hydrochloride
A mixture of 2-amino-5-(3-amino-phenyl)-5-(4-difluoromethoxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one (88 mg, 0.25 mmol), acetyl chloride (20 mg, 0.25 mmol), NEt3 (51 mg, 0.51 mmol) in THF (2.5 mL) was stirred at rt for 1 h, concentrated and purified by reverse-phase HPLC followed by treatment with hydrochloric acid to provide the title compound (42 mg, 43%), characterized by NMR and mass spectral analyses. MS (ES+) m/e 389 (M+H)+.

reactant | 2-amino-5-(3-amino-phenyl)-5-(4-difluoromethoxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one | 0.25 mmol, 88 mg | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)N | C17H16F2N4O2
reactant | acetyl chloride | 0.25 mmol, 20 mg | C(C)(=O)Cl | C2H3ClO
reactant | NEt3 | 0.51 mmol, 51 mg | CCN(CC)CC | C6H15N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | N-(3-(2-Amino-4-(4-(difluoromethoxy)phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl)phenyl)acetamide hydrochloride | 42 mg, 43% | Cl.NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=CC1)NC(C)=O)=O)C | InChI=1S/C19H18F2N4O3.ClH/c1-11(26)23-14-5-3-4-13(10-14)19(16(27)25(2)18(22)24-19)12-6-8-15(9-7-12)28-17(20)21;/h3-10,17H,1-2H3,(H2,22,24)(H,23,26);1H
